US07737166B2
4-Cyano-7-fluoro-5-methyl-6-phenyl-1,3-benzoxazole-2-carbothioamide (I-196-1)
Lawesson's reagent (458 mg, 1.13 mmol) was added to a toluene solution of 4-cyano-7-fluoro-5-methyl-6-phenyl-1,3-benzoxazole-2-carboxamide (I-196) (304 mg, 1.03 mmol), followed by heating under reflux in an oil bath at 125° C. for 10 minutes. After cooling to room temperature, the reaction liquid was concentrated, and the resulting residue was purified by silica gel column chromatography (eluent, chloroform:ethyl acetate=20:1→10:1) to obtain the entitled compound (134 mg, 41.8%) as a yellow solid.

reactant | Lawesson's reagent | 1.13 mmol, 458 mg | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
reactant | 4-cyano-7-fluoro-5-methyl-6-phenyl-1,3-benzoxazole-2-carboxamide | 1.03 mmol, 304 mg | C(#N)C1=C(C(=C(C2=C1N=C(O2)C(=O)N)F)C2=CC=CC=C2)C | C16H10FN3O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 4-Cyano-7-fluoro-5-methyl-6-phenyl-1,3-benzoxazole-2-carbothioamide | 134 mg, 41.8% | C(#N)C1=C(C(=C(C2=C1N=C(O2)C(N)=S)F)C2=CC=CC=C2)C | C16H10FN3OS
